US06864265B2
Preparation of 4-Phenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde
Reaction of 4-phenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole (380 mg, 1.39 mmol), 2.5 M n-BuLi (720 uL, 1.80 mmol), and DMF (323 uL, 4.17 mmol) for 4 h at −40° C. gave the title compound (411 mg, 98%) as a yellow oil. 1H NMR (300 MHz, CDCl3) δ0.00 (s, 9H), 0.93 (t, 2H, J=9.0 Hz), 3.61 (t, 2H, J=9.0 Hz), 5.83 (s, 2H), 7.26-7.46 (m, 3H), 7.65 (s, 1H), 7.83 (d, 2H, J=9.0 Hz), 9.89 (s, 1H).

reactant | 4-phenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | 1.39 mmol, 380 mg | C1(=CC=CC=C1)C=1N=CN(C1)COCC[Si](C)(C)C | C15H22N2OSi
reactant | n-BuLi | 1.80 mmol, 2.5 M, 720 uL | [Li]CCCC
reactant | DMF | 4.17 mmol, 323 uL | CN(C)C=O | C3H7NO
product | 4-Phenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde | 411 mg, 98% | C1(=CC=CC=C1)C=1N=C(N(C1)COCC[Si](C)(C)C)C=O | C16H22N2O2Si
